US07091214B2
A suspension of 4-(7-bromo-3-nitroquinolin-4-ylamino)butan-1-ol (20.75 g, 61.0 mmol) in dichloromethane (220 mL) was cooled to 0° C.; thionyl chloride (4.90 mL, 67.1 mmol) was added dropwise over a period of ten minutes. The reaction was stirred at 0° C. for five minutes, allowed to warm to ambient temperature, and stirred overnight. Aqueous sodium bicarbonate (500 mL of 50%) was slowly added. The aqueous layer was separated and extracted with dichloromethane (3×100 mL). The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield an orange semi-solid. An analysis by LCMS indicated the presence of starting material, and the semi-solid was dissolved in dichloromethane (150 mL) and treated with thionyl chloride (3.0 mL) as described above. Following the work-up procedure, the crude product was purified by column chromatography on silica gel (eluting with dichloromethane:methanol in a gradient from 100:0 to 95:5) to provide 8.3 g of (7-bromo-3-nitroquinolin-4-yl)-(4-chlorobutyl)amine as a yellow solid.

reactant | 4-(7-bromo-3-nitroquinolin-4-ylamino)butan-1-ol | 61.0 mmol, 20.75 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCCO | C13H14BrN3O3
reactant | thionyl chloride | 67.1 mmol, 4.90 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
reactant | thionyl chloride | 3.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 220 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (7-bromo-3-nitroquinolin-4-yl)-(4-chlorobutyl)amine | 8.3 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCCCl | C13H13BrClN3O2
